* SPICE FET model
.lib 'mos_tt.lib'
mfet1 0 11 10 0 pch w=18u l=2u
mfet2 0 H 14 0 pch w=18u l=2u
mfet3 0 6 10 0 pch w=18u l=2u
mfet4 0 5 14 0 pch w=18u l=2u
mfet5 0 8 10 0 pch w=18u l=2u
mfet6 0 2 14 0 pch w=18u l=2u
mfet7 0 9 10 0 pch w=18u l=2u
mfet8 0 18 14 0 pch w=18u l=2u
mfet9 0 16 15 0 pch w=18u l=2u
mfet10 0 G 13 0 pch w=18u l=2u
mfet11 0 12 15 0 pch w=18u l=2u
mfet12 0 5 13 0 pch w=18u l=2u
mfet13 0 13 15 0 pch w=18u l=2u
mfet14 0 2 13 0 pch w=18u l=2u
mfet15 0 14 15 0 pch w=18u l=2u
mfet16 0 20 13 0 pch w=18u l=2u
mfet17 0 15 59 0 pch w=18u l=2u
mfet18 0 F 12 0 pch w=18u l=2u
mfet19 17 10 59 0 pch w=18u l=2u
mfet20 0 5 12 0 pch w=18u l=2u
mfet21 0 Z 18 0 pch w=18u l=2u
mfet22 0 4 12 0 pch w=18u l=2u
mfet23 0 18 20 0 pch w=18u l=2u
mfet24 0 18 12 0 pch w=18u l=2u
mfet25 0 20 16 0 pch w=18u l=2u
mfet26 0 E 16 0 pch w=18u l=2u
mfet27 0 4 16 0 pch w=18u l=2u
mfet28 0 5 16 0 pch w=18u l=2u
mfet29 0 3 2 0 pch w=18u l=2u
mfet30 0 D 11 0 pch w=18u l=2u
mfet31 0 2 4 0 pch w=18u l=2u
mfet32 0 7 11 0 pch w=18u l=2u
mfet33 0 6 5 0 pch w=18u l=2u
mfet34 0 2 11 0 pch w=18u l=2u
mfet35 0 5 7 0 pch w=18u l=2u
mfet36 0 18 11 0 pch w=18u l=2u
mfet37 0 20 9 0 pch w=18u l=2u
mfet38 0 C 6 0 pch w=18u l=2u
mfet39 0 4 9 0 pch w=18u l=2u
mfet40 0 7 6 0 pch w=18u l=2u
mfet41 0 7 9 0 pch w=18u l=2u
mfet42 0 2 6 0 pch w=18u l=2u
mfet43 0 A 9 0 pch w=18u l=2u
mfet44 0 20 6 0 pch w=18u l=2u
mfet45 0 18 8 0 pch w=18u l=2u
mfet46 0 B 8 0 pch w=18u l=2u
mfet47 0 4 8 0 pch w=18u l=2u
mfet48 0 7 8 0 pch w=18u l=2u
mfet49 1 18 20 1 nch w=6u l=2u
mfet50 1 H 44 1 nch w=6u l=2u
mfet51 1 Z 18 1 nch w=6u l=2u
mfet52 44 5 46 1 nch w=6u l=2u
mfet53 1 15 17 1 nch w=6u l=2u
mfet54 45 2 46 1 nch w=6u l=2u
mfet55 1 10 17 1 nch w=6u l=2u
mfet56 14 18 45 1 nch w=6u l=2u
mfet57 15 16 33 1 nch w=6u l=2u
mfet58 1 G 41 1 nch w=6u l=2u
mfet59 32 12 33 1 nch w=6u l=2u
mfet60 41 5 43 1 nch w=6u l=2u
mfet61 32 13 34 1 nch w=6u l=2u
mfet62 42 2 43 1 nch w=6u l=2u
mfet63 1 14 34 1 nch w=6u l=2u
mfet64 13 20 42 1 nch w=6u l=2u
mfet65 10 11 30 1 nch w=6u l=2u
mfet66 1 F 38 1 nch w=6u l=2u
mfet67 29 6 30 1 nch w=6u l=2u
mfet68 38 5 40 1 nch w=6u l=2u
mfet69 29 8 31 1 nch w=6u l=2u
mfet70 39 4 40 1 nch w=6u l=2u
mfet71 1 9 31 1 nch w=6u l=2u
mfet72 12 18 39 1 nch w=6u l=2u
mfet73 16 20 36 1 nch w=6u l=2u
mfet74 1 E 35 1 nch w=6u l=2u
mfet75 36 4 37 1 nch w=6u l=2u
mfet76 35 5 37 1 nch w=6u l=2u
mfet77 1 5 7 1 nch w=6u l=2u
mfet78 1 D 49 1 nch w=6u l=2u
mfet79 1 6 5 1 nch w=6u l=2u
mfet80 47 7 49 1 nch w=6u l=2u
mfet81 1 2 4 1 nch w=6u l=2u
mfet82 47 2 48 1 nch w=6u l=2u
mfet83 1 3 2 1 nch w=6u l=2u
mfet84 11 18 48 1 nch w=6u l=2u
mfet85 9 20 57 1 nch w=6u l=2u
mfet86 1 C 52 1 nch w=6u l=2u
mfet87 56 4 57 1 nch w=6u l=2u
mfet88 50 7 52 1 nch w=6u l=2u
mfet89 56 7 58 1 nch w=6u l=2u
mfet90 50 2 51 1 nch w=6u l=2u
mfet91 1 A 58 1 nch w=6u l=2u
mfet92 6 20 51 1 nch w=6u l=2u
mfet93 8 18 54 1 nch w=6u l=2u
mfet94 1 B 55 1 nch w=6u l=2u
mfet95 53 4 54 1 nch w=6u l=2u
mfet96 53 7 55 1 nch w=6u l=2u
.end
** Net name table **
*$ OUT	0
*$ inv1_v2.gex/Vdd	0
*$ nand4_v2.gex/Vdd	0
*$ nor2_v2.gex/Vdd	0
*$ inv1_v2.gex/Gnd	1
*$ nand4_v2.gex/Gnd	1
*$ nor2_v2.gex/Gnd	1
*$ inv1_v2.gex/A	2
*$ nand4_v2.gex/C	2
*$ inv1_v2.gex/Y	2
*$ inv1_v2.gex/A	3
*$ Y	3
*$ nand4_v2.gex/C	4
*$ inv1_v2.gex/Y	4
*$ inv1_v2.gex/A	5
*$ nand4_v2.gex/B	5
*$ inv1_v2.gex/Y	5
*$ inv1_v2.gex/A	6
*$ nand4_v2.gex/C	6
*$ X	6
*$ nand4_v2.gex/Y	6
*$ nand4_v2.gex/B	7
*$ inv1_v2.gex/Y	7
*$ nand4_v2.gex/B	8
*$ nand4_v2.gex/Y	8
*$ nand4_v2.gex/A	9
*$ nand4_v2.gex/Y	9
*$ nor2_v2.gex/B	10
*$ nand4_v2.gex/Y	10
*$ nand4_v2.gex/D	11
*$ nand4_v2.gex/Y	11
*$ nand4_v2.gex/C	12
*$ nand4_v2.gex/Y	12
*$ nand4_v2.gex/B	13
*$ nand4_v2.gex/Y	13
*$ nand4_v2.gex/A	14
*$ nand4_v2.gex/Y	14
*$ nor2_v2.gex/A	15
*$ nand4_v2.gex/Y	15
*$ nand4_v2.gex/D	16
*$ nand4_v2.gex/Y	16
*$ nor2_v2.gex/Y	17
*$ inv1_v2.gex/A	18
*$ nand4_v2.gex/D	18
*$ inv1_v2.gex/Y	18
*$ inv1_v2.gex/A	19
*$ Z	19
*$ nand4_v2.gex/D	20
*$ inv1_v2.gex/Y	20
*$ A	21
*$ nand4_v2.gex/A	21
*$ nand4_v2.gex/A	22
*$ B	22
*$ nand4_v2.gex/A	23
*$ C	23
*$ nand4_v2.gex/A	24
*$ D	24
*$ nand4_v2.gex/A	25
*$ E	25
*$ nand4_v2.gex/A	26
*$ F	26
*$ nand4_v2.gex/A	27
*$ G	27
*$ nand4_v2.gex/A	28
*$ H	28
